US04122265
Preparation of 5-chloro-3-phenylisoindole-1-carboxylic acid 3-(cyclohexylamino)propyl ester hydrochloride
A solution of 7-chloro-2,3-dihydro-1-methyl-2-oxo-5-phenyl-1H-1,4-benzodiazepine-3-carboxylic acid 3-[(methylsulfonyl)oxy]propyl ester in 400 ml. of acetone is treated with 100 ml. of cyclohexylamine and the mixture is boiled at reflux for 2 hours. The mixture is then concentrated to dryness under reduced pressure and the residue dissolved in 300 ml. of benzene. After washing with water, the organic solution is shaken with an excess of 2-N hydrochloric acid. The clear aqueous phase is made alkaline with 2-N sodium carbonate solution and the liberated base extracted with benzene. The benzene extract is washed with water, dried over sodium sulfate and concentrated to dryness. The oily residue crystallizes upon trituration with diethyl ether, and there are obtained 22.4 g. of 7-chloro-2,3-dihydro-1-methyl-2-oxo-5-phenyl-1H-1,4-benzodiazepine-3-carboxylic acid 3-(cyclohexylamino)propyl ester having a melting point of 109°-111° C.

reactant | 7-chloro-2,3-dihydro-1-methyl-2-oxo-5-phenyl-1H-1,4-benzodiazepine-3-carboxylic acid 3-[(methylsulfonyl)oxy]propyl ester | CS(=O)(=O)OCCCOC(=O)C1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=C(C=C2)Cl)C)=O | C21H21ClN2O6S
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
reactant | 7-chloro-2,3-dihydro-1-methyl-2-oxo-5-phenyl-1H-1,4-benzodiazepine-3-carboxylic acid 3-(cyclohexylamino)propyl ester | C1(CCCCC1)NCCCOC(=O)C1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=C(C=C2)Cl)C)=O | C26H30ClN3O3
solvent | acetone | CC(=O)C | C3H6O
product | 5-chloro-3-phenylisoindole-1-carboxylic acid 3-(cyclohexylamino)propyl ester hydrochloride | Cl.C1(CCCCC1)NCCCOC(=O)C=1NC(=C2C=C(C=CC12)Cl)C1=CC=CC=C1 | InChI=1S/C24H27ClN2O2.ClH/c25-18-12-13-20-21(16-18)22(17-8-3-1-4-9-17)27-23(20)24(28)29-15-7-14-26-19-10-5-2-6-11-19;/h1,3-4,8-9,12-13,16,19,26-27H,2,5-7,10-11,14-15H2;1H
